US08957252B2
Preparation of (2R)-2-amino-N-benzyl-3-hydroxypropanamide.
To a reaction flask charged (2S)-N-benzyl-2-bromo-3-hydroxypropanamide (80.0 gms) and sodium azide (30.23 gms) in N,N-dimethylformamide (480 ml), stirred and raised the temperature to 50-55° C. and maintained for 4-5 hours. Stopped heating and cooled the reaction mixture to 20-25° C., charged DM water (400 ml), adjusted pH of the reaction mixture to 9-9.5 using 5% NaHCO3 solution. Extracted the reaction mixture with ethyl acetate (1×800 ml, 2×280 ml) separated the organic layer and combined all ethyl acetate layers, washed with saturated ammonium chloride solution (2×240 ml). The ethyl acetate layer was taken for hydrogenation to 2 lit autoclave. Charged ethyl acetate layer and 5% Pd-C (6.85 gms) was added and closed the autoclave. Applied 3.8 kg Hydrogen pressure maintaining temperature at 25-30° C. and maintained the reaction mixture at 25-30° C. for 1.0 hour. After completion of the reaction released Hydrogen pressure and flushed the autoclave with Nitrogen gas. Filtered the reaction mass through hyflo bed and washed hyflo bed with ethyl acetate. Concentrated filtrate under reduced pressure at 30-35° C. till two volumes of ethyl acetate remains in the reaction mixture. Removed vacuum and cooled the reaction mass to 0-5° C. and maintained for 2.0 hours. The reaction mass was filtered and washed with cold ethyl acetate (2×40 ml). Dried the product (2R)-2-amino-N-benzyl-3-hydroxypropanamide under vacuum at 25-30° C. till constant weight.

reactant | (2S)-N-benzyl-2-bromo-3-hydroxypropanamide | 80.0 gms | C(C1=CC=CC=C1)NC([C@H](CO)Br)=O | C10H12BrNO2
reactant | sodium azide | 30.23 gms | [N-]=[N+]=[N-].[Na+]
reactant | water | 400 ml | O | H2O
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | N,N-dimethylformamide | 480 ml | CN(C=O)C | C3H7NO
product | (2R)-2-amino-N-benzyl-3-hydroxypropanamide | N[C@@H](C(=O)NCC1=CC=CC=C1)CO | C10H14N2O2
